US05767317
2,2'-Bis[bis(4-fluorophenyl)phosphinylmethyl]-1,1'-binaphthyl
While stirring under nitrogen, 10.70 g (0.04 mol) of ethyl bis(4-fluorophenyl)phosphinite are added dropwise to a solution of 8.80 g (0.02 mol) of 2,2'-bis(bromo-methyl)-1,1'-binaphthyl in 40 ml of o-xylene, which solution has been heated to 135° C. After the end of the addition, the mixture is heated under reflux for a further 1.5 hours. After cooling to room temperature, the precipitated crystals are filtered off with suction and washed with xylene. This gives 14.1 g (94 %) of colorless crystals having a melting point of 211°-214° C.

reactant | ethyl bis(4-fluorophenyl)phosphinite | 0.04 mol, 10.70 g | FC1=CC=C(C=C1)P(OCC)C1=CC=C(C=C1)F | C14H13F2OP
reactant | 2,2'-bis(bromo-methyl)-1,1'-binaphthyl | 0.02 mol, 8.80 g | BrCC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)CBr | C22H16Br2
solvent | o-xylene | 40 ml | CC=1C=CC=CC1C | C8H10
product | 2,2'-Bis[bis(4-fluorophenyl)phosphinylmethyl]-1,1'-binaphthyl | FC1=CC=C(C=C1)P(=O)(C1=CC=C(C=C1)F)CC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)CP(=O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C46H32F4O2P2
